US07981886B2
6-{[trans-4-(benzo[b]thiophene-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]oxazin-3-one
The title compound was prepared according to the same protocol as that described for example 1, steps 1.a to 1.c, starting from thianaphthene (5 mmol), [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester (2.5 mmol) and 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde (0.4 mmol). A colourless solid (44 mg) was obtained.

reactant | thianaphthene | 5 mmol | C=1C=CC2=C(C1)C=CS2 | C8H6S
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 2.5 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | 0.4 mmol | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
product | 6-{[trans-4-(benzo[b]thiophene-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]oxazin-3-one | S1C2=C(C=C1C(=O)[C@@H]1CC[C@H](CC1)NCC=1C=CC3=C(NC(CO3)=O)C1)C=CC=C2 | C24H24N2O3S
